### PR TITLE
[Merged by Bors] - feat: port Computability.Language

### PR DESCRIPTION
**Pull request by qawbecrdtey**
---
- [x] depends on: https://github.com/leanprover-community/mathlib/pull/17965
- [x] depend on: #2164
* [`computability.language`@`dd71334db81d0bd444af1ee339a29298bef40734`..`a239cd3e7ac2c7cde36c913808f9d40c411344f6`](https://leanprover-community.github.io/mathlib-port-status/file/computability/language?range=dd71334db81d0bd444af1ee339a29298bef40734..a239cd3e7ac2c7cde36c913808f9d40c411344f6)
* `Language` `deriving` ?
* `Language` having local attribute `reducible`?

### CODE REVIEW

File: Mathlib/Computability/Language.lean [hunk 1]
```diff
@@ -176,24 +177,25 @@ theorem map_map (g : β → γ) (f : α → β) (l : Language α) : map g (map f
...
-    exact ⟨h y hy.1, hy.2⟩
+    refine' ⟨S.filter λ l ↦ ¬List.isEmpty l, by simp, λ y hy ↦ _⟩
+    simp [mem_filter, List.isEmpty_iff_eq_nil] at hy
+    let ⟨hyl, hyr⟩ := hy
+    apply And.intro (h y hyl)
+    cases y <;> simp only [ne_eq, not_true, not_false_iff]
+    contradiction
   · rintro ⟨S, hx, h⟩
-    exact ⟨S, hx, fun y hy => (h y hy).1⟩
+    exact ⟨S, hx, λ y hy ↦ (h y hy).1⟩
```
Comment (jcommelin) [inline Mathlib/Computability/Language.lean:191]:
```suggestion
    exact ⟨S, hx, fun y hy ↦ (h y hy).1⟩
```

Comment (jcommelin) [reply Mathlib/Computability/Language.lean:191]: Please also revert the other λs

File: Mathlib/Computability/Language.lean [hunk 2]
```diff
@@ -176,24 +177,25 @@ theorem map_map (g : β → γ) (f : α → β) (l : Language α) : map g (map f
...
   · rintro ⟨S, rfl, h⟩
-    refine' ⟨S.filter fun l => ¬List.isEmpty l, by simp, fun y hy => _⟩
-    rw [mem_filter, empty_iff_eq_nil] at hy
-    exact ⟨h y hy.1, hy.2⟩
+    refine' ⟨S.filter λ l ↦ ¬List.isEmpty l, by simp, λ y hy ↦ _⟩
+    simp [mem_filter, List.isEmpty_iff_eq_nil] at hy
+    let ⟨hyl, hyr⟩ := hy
+    apply And.intro (h y hyl)
+    cases y <;> simp only [ne_eq, not_true, not_false_iff]
+    contradiction
```
Comment (jcommelin) [inline Mathlib/Computability/Language.lean:189]: Why does the one-liner in the old code no longer work?

File: Mathlib/Computability/Language.lean [hunk 3]
```diff
@@ -228,15 +230,17 @@ theorem add_supr {ι : Sort v} [Nonempty ι] (l : ι → Language α) (m : Langu
...
     · rintro rfl
-      exact ⟨[], rfl, rfl, fun y h => h.elim⟩
-    · rintro ⟨_, rfl, rfl, _⟩
-      rfl
+      exact ⟨[], rfl, rfl, λ _ h ↦ by contradiction⟩
+    · intro h; have ⟨ax, bx, cx, dx⟩ := h
+      rw [bx]; simp; intros l' h'
+      rw [length_eq_zero] at cx
+      rw [cx] at h'
+      contradiction
```
Comment (jcommelin) [inline Mathlib/Computability/Language.lean:243]: Why can't you do a recursive `intro`? That's what the proof used to be.
Please leave a `-- Porting note:` that records the old proof, if you can't get it to work.

File: Mathlib/Computability/Language.lean (hunk 2 above)
Comment (qawbecrdtey) [reply Mathlib/Computability/Language.lean:189]: The goal `y ≠ []` cannot be derived from `hy.2 : isEmpty y = false`.

Comment (jcommelin) [reply Mathlib/Computability/Language.lean:189]: Please record that observation in a porting note. We might want to add a lemma that links those two facts, and golf this proof afterwards.

File: Mathlib/Computability/Language.lean (hunk 3 above)
Comment (qawbecrdtey) [reply Mathlib/Computability/Language.lean]: @jcommelin Thanks for the comments!

File: Mathlib/Computability/Language.lean [hunk 4]
```diff
@@ -0,0 +1,317 @@
...
+
+universe v
+
+variable {α β γ : Type _}
+
+/-- A language is a set of strings over an alphabet. -/
+def Language (α) :=
+  Set (List α)
+  -- Porting note: Failed to derive the following, which seems necessary:
+  -- deriving Membership, Singleton, Insert, CompleteBooleanAlgebra
```
Comment (dupuisf) [inline Mathlib/Computability/Language.lean:35]: In this case, these instances should be added manually, like so:
```
instance : Membership (List α) (Language α) := Set.instMembershipSet
```
and so on. Also, it would be good to explicitly give names to `Set.instMembershipSet` instead of relying on autogenerated names.

File: Mathlib/Computability/Language.lean [hunk 5]
```diff
@@ -0,0 +1,317 @@
...
+variable {l m : Language α} {a b x : List α}
+
+-- Porting note: `reducible` attribute cannot be local.
+attribute [reducible] Language
+
+-- Porting note: it depends on 'EmptyCollection.emptyCollection',
+-- and it does not have executable code
+/-- Zero language has no elements. -/
+noncomputable instance : Zero (Language α) :=
+  ⟨(∅ : Set _)⟩
```
Comment (dupuisf) [inline Mathlib/Computability/Language.lean:49]:
```suggestion
instance : Zero (Language α) :=
  ⟨fun _ => False⟩
```
I don't really understand the error either, but this workaround works. Same goes for the other ones.

**Review by eric-wieser — CHANGES_REQUESTED** [review]
I wonder if we want to avoid porting this file until leanprover-community/mathlib#17965 is resolved. This is a very much a leaf file, so there's no rush at all to port it.

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib#17965
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#17965~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by eric-wieser** [comment]
Note that this PR is now blocked on porting the new file added in mathlib3

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+

File: Mathlib/Computability/Language.lean [hunk 6]
```diff
@@ -0,0 +1,311 @@
...
+instance : Singleton (List α) (Language α) := ⟨Set.singleton⟩
+instance : Insert (List α) (Language α) := ⟨Set.insert⟩
+instance : CompleteBooleanAlgebra (Language α) := Set.instCompleteBooleanAlgebraSet
+
+namespace Language
+
+variable {l m : Language α} {a b x : List α}
+
+-- Porting note: `reducible` attribute cannot be local.
+attribute [reducible] Language
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:47]: This is a big problem; it means we now have a global instance on `Zero (Language α)`

Comment (Komyyy) [reply Mathlib/Computability/Language.lean:47]: I created the PR #2307 to remove this.
